US07060827B2
In like manner to the preparation of 5-fluoro-N4-(3-hydroxyphenyl)-N2-[4-(3-phenyl-1,2,4-oxadiazol-5-yl)methyleneoxyphenyl]-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 3-[(N-ethylamino)carbonyloxy]aniline were reacted to provide N2-[3-[(N-ethylamino)carbonyloxy]phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.92 (d, 1H, J=3.0 Hz), 7.67–7.55 (m, 2H), 7.24 (t, 1H, J=7.5 Hz), 7.16 (t, 1H, J=7.5 Hz), 7.07–6.98 (m, 2H), 6.84–6.79 (m, 2H), 6.67 (m, 2H), 6.60 (d, 1H, J=7.5 Hz), 5.22–5.14 (m, 1H), 3.36–3.27 (m, 2H), 2.95 (s, 1H), 2.88 (s, 1H), 1.20 (t, 3H, J=7.5 Hz); 19F NMR (282 MHz, CDCl3): −47012; LCMS: purity: 99%; MS (m/e): 384(MH+).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3-[(N-ethylamino)carbonyloxy]aniline | C(C)NC(=O)OC=1C=C(N)C=CC1 | C9H12N2O2
product | N2-[3-[(N-ethylamino)carbonyloxy]phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C)NC(=O)OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C19H18FN5O3
